US07183293B2
Benzo-[2,1,3]-thiadiazol-5-ol of Formula (5.0.3)
5-Methoxybenzo-2,1,3-thiadiazole (4.09 g, 24.6 mmol) was stirred with hydrobromic acid (60 mL, 165 mmol, 30% in acetic acid) at 80° C. 5 days. The mixture was cooled to 10° C. and filtered. The solids were purified by short column chromatography (50% ethyl acetate/hexane). Solvents were stripped in vacuo to afford 1.0 g of a yellow solid (27% yield).

reactant | 5-Methoxybenzo-2,1,3-thiadiazole | 24.6 mmol, 4.09 g | COC1=CC=2C(=NSN2)C=C1 | C7H6N2OS
reactant | hydrobromic acid | 165 mmol, 60 mL | Br | BrH
product | Benzo-[2,1,3]-thiadiazol-5-ol | 1.0 g, 27% yield | N=1SN=C2C1C=CC(=C2)O | C6H4N2OS
